US05712267
343 mg of N,N'-carbonyldiimidazole were added to a solution of 674 mg of trans-1-(4-nitrobenzyloxycarbonyl)-4-trimethylsilyloxy-L-proline in 14 ml of dry acetonitrile, and the resulting mixture was stirred room temperature for 1 hour. A solution of 275 mg of 1-(2-hydroxyethyl)piperazine in 1 ml of dry acetonitrile was then added to the mixture, and the mixture was stirred overnight at room temperature. At the end this time, the mixture was concentrated by evaporation under reduced pressure, and the concentrate was mixed with an aqueous solution of sodium chloride. The mixture was then extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure, to give 574 mg (2S,4R)-2-[4-(2-hydroxyethyl)-1-piperazinylcarbonyl]-4-trimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine as an oil. The whole of the compound thus obtained was dissolved in 5.7 ml of methylene chloride, and 170 mg 4-dimethylaminopyridine and 300 mg of 4-nitrobenzyl chloroformate were added to the solution, whilst ice-cooling. The resulting mixture was stirred at room temperature for 1hour and then the solvent was removed by distillation under reduced pressure. 15 ml of 1N aqueous hydrochloric acid were added to the residue, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was then made slightly alkaline by the addition of an aqueous solution of sodium hydrogencarbonate, after which it was extracted with ethyl acetate, The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure. Following the procedure described in step 90(b)(i') above, the residue was purified to give 348 mg of the title compound, as a powder. The infrared absorption spectrum and nuclear magnetic resonance spectrum of the compound thus obtained were identical with those of the compound prepared as described in step 90(b)(i) above.

reactant | trans-1-(4-nitrobenzyloxycarbonyl)-4-trimethylsilyloxy-L-proline | 674 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@H](C(=O)O)C[C@H](C2)O[Si](C)(C)C)C=C1 | C16H22N2O7Si
reactant | 1-(2-hydroxyethyl)piperazine | 275 mg | OCCN1CCNCC1 | C6H14N2O
solvent | acetonitrile | 14 ml | C(C)#N | C2H3N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | (2S,4R)-2-[4-(2-hydroxyethyl)-1-piperazinylcarbonyl]-4-trimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 574 mg | OCCN1CCN(CC1)C(=O)[C@H]1N(C[C@@H](C1)O[Si](C)(C)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C22H34N4O7Si
